US07923568B2
A stirred mixture of N-(4-methyl-1-oxo-2,3-dihydro-1H-inden-5-yl)acetamide (20.00 g, 98.40 mmol), potassium acetate (19.32 g, 197 mmol), acetic acid (11.3 mL, 197 mmol), acetic anhydride (18.6 mL, 197 mmol) and 1,4,7,10,13,16-hexaoxacyclooctadecane (5.20 g, 19.7 mmol) in 600 mL of chloroform was heated at 65° C. and isopentyl nitrite (33.0 mL, 246 mmol) was added during 10 minutes. The mixture was stirred at 65° C. for 23 hours and was then allowed to cool to room temperature. The reaction mixture was diluted with chloroform and washed successively with saturated NaHCO3 (2×), water and brine. After drying over Na2SO4, the solution was concentrated to low volume under vacuum and flash chromatographed on silica gel eluting with EtOAc/dichloroethane (0:100 to 10:90) to give 3-acetyl-7,8-dihydrocyclopenta[e]indazol-6(3H)-one as a yellow solid.

reactant | N-(4-methyl-1-oxo-2,3-dihydro-1H-inden-5-yl)acetamide | 98.40 mmol, 20.00 g | CC1=C2CCC(C2=CC=C1NC(C)=O)=O | C12H13NO2
reactant | potassium acetate | 197 mmol, 19.32 g | C(C)(=O)[O-].[K+]
reactant | acetic acid | 197 mmol, 11.3 mL | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 197 mmol, 18.6 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1,4,7,10,13,16-hexaoxacyclooctadecane | 19.7 mmol, 5.20 g | O1CCOCCOCCOCCOCCOCC1 | C12H24O6
reactant | isopentyl nitrite | 246 mmol, 33.0 mL | N(=O)OCCC(C)C | C5H11NO2
solvent | chloroform | 600 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-acetyl-7,8-dihydrocyclopenta[e]indazol-6(3H)-one | C(C)(=O)N1N=CC=2C3=C(C=CC12)C(CC3)=O | C12H10N2O2
